US07989444B2
2-(1-methylethyl)-7-(4-{[4-methyl-5-(2-methyl-5-quinolinyl)-4H-1,2,4-triazol-3-yl]thio}butyl)-3,5,6,7,8,9-hexahydroazepino[4,5-f]isoindol-1(2H)-one hydrochloride
The title compound was prepared in analogy to General Procedure 1 from 2-(1-methylethyl)-3,5,6,7,8,9-hexahydroazepino[4,5-f]isoindol-1(2H)-one (80 mg) and 5-{5-[(4-chlorobutyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}-2-methylquinoline (135 mg) and was obtained as a colourless slightly hygroscopic solid (90 mg).

reactant | 2-(1-methylethyl)-3,5,6,7,8,9-hexahydroazepino[4,5-f]isoindol-1(2H)-one | 80 mg | CC(C)N1CC=2C=C3C(=CC2C1=O)CCNCC3 | C15H20N2O
reactant | 5-{5-[(4-chlorobutyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}-2-methylquinoline | 135 mg | ClCCCCSC=1N(C(=NN1)C1=C2C=CC(=NC2=CC=C1)C)C | C17H19ClN4S
product | 2-(1-methylethyl)-7-(4-{[4-methyl-5-(2-methyl-5-quinolinyl)-4H-1,2,4-triazol-3-yl]thio}butyl)-3,5,6,7,8,9-hexahydroazepino[4,5-f]isoindol-1(2H)-one hydrochloride | Cl.CC(C)N1CC=2C=C3C(=CC2C1=O)CCN(CC3)CCCCSC3=NN=C(N3C)C3=C1C=CC(=NC1=CC=C3)C | InChI=1S/C32H38N6OS.ClH/c1-21(2)38-20-25-18-23-12-15-37(16-13-24(23)19-28(25)31(38)39)14-5-6-17-40-32-35-34-30(36(32)4)27-8-7-9-29-26(27)11-10-22(3)33-29;/h7-11,18-19,21H,5-6,12-17,20H2,1-4H3;1H
